US09023846B2
A solution of 5-tert-butyl-4-chloro-2-methyl-2H-pyrazole-3-carboxylic acid [6-(2-chloro-phenyl)-3-nitro-pyridin-2-yl]-amide (157 mg, 0.350 mmol, prepared as described in the previous step) in acetic acid (5 mL) was treated with iron powder (97.8 mg, 1.75 mmol) and heated to 100° C. for 3 h. The cooled mixture then was concentrated in vacuo, taken up in water (50 mL) and extracted twice with EtOAc (50 mL). The combined extracts were dried over MgSO4 and concentrated in vacuo. The residue was purified on a 12-g SEPRA Si 50 SPE column (Isco system: Flow rate=15 mL/min; Eluent=EtOAc/hexanes, 1:99 v/v for 10 min, then 1:99 to 3:17 v/v over 40 min) to yield 2-(5-tert-butyl-4-chloro-2-methyl-2H-pyrazol-3-yl)-5-(2-chloro-phenyl)-1H-imidazo[4,5-b]pyridine as a white solid. Mass Spectrum (LCMS, APCI pos.): Calculated for C20H19Cl2N5: 400.1 (M+H); Measured: 400.2.

reactant | 5-tert-butyl-4-chloro-2-methyl-2H-pyrazole-3-carboxylic acid [6-(2-chloro-phenyl)-3-nitro-pyridin-2-yl]-amide | ClC1=C(C=CC=C1)C1=CC=C(C(=N1)NC(=O)C=1N(N=C(C1Cl)C(C)(C)C)C)[N+](=O)[O-] | C20H19Cl2N5O3
solvent | acetic acid | 5 mL | C(C)(=O)O | C2H4O2
catalyst | iron | 1.75 mmol, 97.8 mg | [Fe] | Fe
product | 2-(5-tert-butyl-4-chloro-2-methyl-2H-pyrazol-3-yl)-5-(2-chloro-phenyl)-1H-imidazo[4,5-b]pyridine | C(C)(C)(C)C=1C(=C(N(N1)C)C=1NC=2C(=NC(=CC2)C2=C(C=CC=C2)Cl)N1)Cl | C20H19Cl2N5
